US07981903B2
A solution of 2-methyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline and Pd(OH)2(1 g) in MeOH(100 mL) was stirred under H2 at room temperature for 5 h. The solution was filtered and all solvents were removed under reduced pressure to give 2-methyl-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine (2 g, 77.2%). 1H NMR (400 MHz, CDCl3) δ ppm 6.51 (s, 1 H), 6.38 (s, 1 H), 3.81 (s, 3 H), 3.64 (s, 2 H), 3.43 (s, 2 H), 2.81 (t, J=5.77 Hz, 2 H), 2.64 (t, J=5.90 Hz, 2 H), 2.42 (s, 3H).

reactant | 2-methyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | CN1CC2=CC(=C(C=C2CC1)OC)[N+](=O)[O-] | C11H14N2O3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd(OH)2 | 1 g | [OH-].[OH-].[Pd+2]
product | 2-methyl-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine | 2 g, 77.2% | CN1CC2=CC(=C(C=C2CC1)OC)N | C11H16N2O
